US09315521B2
2-{[(2-chloro-6-fluorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
As per procedure from Example 1, 2-(bromomethyl)-1-chloro-3-fluorobenzene and 6-methyl-2-sulfanylpyrimidin-4-ol were reacted together to provide the title compound as a white solid (1.04 g, 82% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.19 (s, 3H), 4.53 (s, 2H), 6.01 (bs, 1H), 7.26 (m, 1H), 7.38 (m, 2H); M+282.06.

reactant | 2-(bromomethyl)-1-chloro-3-fluorobenzene | BrCC1=C(C=CC=C1F)Cl | C7H5BrClF
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 2-{[(2-chloro-6-fluorophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 1.04 g, 82% yield | ClC1=C(C(=CC=C1)F)CSC1=NC(=CC(=N1)O)C | C12H10ClFN2OS
